US09023847B2
37. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (4-fluoro-phenyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 4-fluoroaniline of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 353 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.11 (1H, s) 9.90 (1H, s) 8.01 (1H, d, J=5.42 Hz) 7.88 (1H, d, J=5.42 Hz) 7.64 (2H, dd, J=9.13, 5.08 Hz) 7.49 (1H, d, J=5.42 Hz) 7.30 (1H, dd, J=3.25, 2.66 Hz) 7.16 (2H, t, J=8.93 Hz) 6.82 (1H, d, J=5.47 Hz) 6.43 (1H, dd, J=3.49, 1.93 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 1-BOC-3-aminopyrrolidine | C(=O)(OC(C)(C)C)N1CC(CC1)N | C9H18N2O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (4-fluoro-phenyl)-amide | FC1=CC=C(C=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C18H13FN4OS
